US05434278
Acetoglyceride fat mixtures are prepared using the interesterification procedure of Example 1, except that the interesterification mixture contains hydrogenated canola with both tripropionin (1.25 moles, 2.25 moles and 6 moles per mole hydrogenated canola) and triacetin (in the same proportions), the reaction temperature is 120° to 125° C., and 0.2 to 0.5% sodium methoxide is employed. Though reactions are run for about 5 to 30 minutes, most are complete in less than 10 minutes. The samples are steam deodorized after interesterification as set out in Example 1.

reactant | tripropionin | 1.25 moles | CCC(=O)OCC(COC(=O)CC)OC(=O)CC | C12H20O6
reactant | triacetin | CC(OCC(OC(C)=O)COC(C)=O)=O | C9H14O6
reactant | sodium methoxide | C[O-].[Na+]
product | Acetoglyceride | CC(=O)OCC(CO)O | C5H10O4
